US08378108B2
A suspension of N-(3-(1,3,4-oxadiazol-2-yl)phenyl)-3,4′-bipyridine-2′-carboxamide (210 mg, 0.61 mmol), (R)-2-amino-1-propanol (0.3 mL), and trifluoroacetic acid (0.05 mL) in n-butanol was heated in a microwave to 150° C. for 1 hour. The solvent was removed under reduced ressure and the residue was purified by reverse-phase HPLC to give (R)—N-(3-(4-(1-hydroxypropan-2-yl)-4H-1,2,4-triazol-3-yl)phenyl)-3,4′-bipyridine-2′-carboxamide as a white powder (55 mg, 0.138 mmol, 23% yield).

reactant | N-(3-(1,3,4-oxadiazol-2-yl)phenyl)-3,4′-bipyridine-2′-carboxamide | 0.61 mmol, 210 mg | O1C(=NN=C1)C=1C=C(C=CC1)NC(=O)C1=NC=CC(=C1)C=1C=NC=CC1 | C19H13N5O2
reactant | (R)-2-amino-1-propanol | 0.3 mL | N[C@@H](CO)C | C3H9NO
reactant | trifluoroacetic acid | 0.05 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | n-butanol | C(CCC)O | C4H10O
product | (R)—N-(3-(4-(1-hydroxypropan-2-yl)-4H-1,2,4-triazol-3-yl)phenyl)-3,4′-bipyridine-2′-carboxamide | 0.138 mmol, 55 mg, 23% yield | OC[C@@H](C)N1C(=NN=C1)C=1C=C(C=CC1)NC(=O)C1=NC=CC(=C1)C=1C=NC=CC1 | C22H20N6O2
